US08648066B2
7-(2-ethyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared as trifluoroacetate salt according to the method of example 6 by using 2-methylpropyl 2-ethyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate hydrochloride (reagent preparation 19) and 4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin (reagent preparation 8) in step 3. 1H NMR (400 MHz, methanol-d4): 8.67 (d, 1H), 8.19 (d, 1H), 7.76 (s, 1H), 7.57 (d, 1H), 7.09 (d, 1H), 5.13 (s, 2H), 4.45 (m, 2H), 4.31 (m, 2H), 3.09 (m, 2H), 2.81 (m, 2H), 2.57 (s, 2H), 2.50 (s, 3H), 1.68 (m, 2H), 1.48 (m, 3H), 0.94 (s, 6H); MS (EI) for C28H32N6O: 469 (MH+).

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 2-methylpropyl 2-ethyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate hydrochloride | Cl.C(C)C=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C
reactant | 4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin | ClC1=NC=NC=2CCC(CC12)(C)C | C10H13ClN2
product | 7-(2-ethyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | C(C)C=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC(=NC=4CCC(CC34)(C)C)C)C2)N1 | C28H32N6O
